US05192766
Ethyl (E)-p-isobutoxycinnamate
13.8 g of potassium carbonate and 7.50 g of sodium iodide were added to a solution of 9.61 g of ethyl (E)-p-hydroxycinnamate and 8.22 g of isobutylbromide in 100 ml of dimethyl sulfoxide. The reaction mixture was then stirred for 20 hours at 60° C., after which it was cooled to the room temperature. The reaction mixture was then poured into 1 liter of water and extracted twice with ethyl acetate. The combined extracts were washed with water and dried over anhydrous sodium sulfate; the solvent was then removed by evaporation under reduced pressure. The residue was purified by flash column chromatography using 300 g of silica gel, eluted with a 5:1 by volume solution of hexane and ethyl acetate, to give 10.71 g of the title compound as a colorless oil (which solidified at low temperature).

reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 7.50 g | [I-].[Na+]
reactant | ethyl (E)-p-hydroxycinnamate | 9.61 g | OC1=CC=C(/C=C/C(=O)OCC)C=C1 | C11H12O3
reactant | isobutylbromide | 8.22 g | C(C(C)C)Br | C4H9Br
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 1 liter | O | H2O
product | Ethyl (E)-p-isobutoxycinnamate | 10.71 g | C(C(C)C)OC1=CC=C(/C=C/C(=O)OCC)C=C1 | C15H20O3
